US08389511B2
1-tert-Butyl 3-ethyl 4-oxopiperidine-1,3-dicarboxylate
Ethyl 4-piperidone-3-carboxylate hydrochloride (5.0 g) was dissolved in tetrahydrofuran (30 ml), and thereto were added 10% aqueous potassium carbonate solution (30 ml) and di-tert-butyl dicarbonate (5.8 g) under ice-cooling. Then, the mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The organic layer was washed with a 10% aqueous citric acid solution and an aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound (5.0 g) as a white solid.

reactant | Ethyl 4-piperidone-3-carboxylate hydrochloride | 5.0 g | CCOC(=O)C1CNCCC1=O.Cl
reactant | potassium carbonate | 30 ml | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 5.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-tert-Butyl 3-ethyl 4-oxopiperidine-1,3-dicarboxylate | 5.0 g | O=C1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H21NO5
